* baseline transient strain profile
        .include bsim4_nmos.subckt
        Veps eps_s 0 SIN(0.0 0.005 0.3 0 0 0)
        Valp alpha 0 dc 0.0
        Vdd d 0 dc 1.0
Vgs g 0 dc 0.75
Vss s 0 dc 0.0
Vbb b 0 dc 0.0

        Xdev d g s b bsim4_nmos W=10u L=180n
        .tran 0.01 5.0
        .print tran time v(eps_s) v(alpha) i(Vdd)
        .end
